Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / vancomycin
 
Attending: ___.
 
Chief Complaint:
"I came in voluntarily as a pre-emptive measure." 
Suicide attempt (leaving oven on overnight and hoping not to 
wake) in setting of sleep disturbance/worsening PTSD

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including Dr. ___ initial 
consultation note dated ___ and Dr.
___ admission note dated ___. 
. 
Briefly, this is a ___ year old single Caucasian woman, currently 
a senior at ___, previously diagnosed with PTSD, no prior 
psychiatric hospitalizations who presented to ___ ED after 
disclosing to student health she attempted to kill herself via 
leaving her stove on overnight with hopes of dying.
. 
Upon initial interview in the ED, patient reported she had been 
diagnosed with PTSD and had been in treatment, which she had to 
stop after aging out of her parents insurance plan. Reported she 
had having symptoms of restlessness and non-restorative sleep, 
hypervigilance, poor concentration, apathy and anergia. Denied 
anhedonia. Reported auditory flashbacks and stated she has had 
frequent thoughts of death. On the night prior to presentation, 
stated she drank a few beers and turned on the stove in her 
apartment hoping it would lead to carbon monoxide poisoning. 
. 
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Ms. ___, who was a reliable historian 
and able to provide a clear and coherent history, she confirmed 
the history provided in the ED. Reported she had no psychiatric 
history until approximately ___ years ago at the ___ 
___, which she witnessed. Described witnessing two bombs 
going off and stated she ran away from he scene, felt compelled 
to run back to help, but "froze," and felt ashamed about this. 
Stated that following this, she did not think she had PTSD but 
noted she suffered a "two year decline" where she would notice 
she would "lose time" with periods of increased anxiety, 
repetitive thoughts "that would loop," auditory hallucinations 
of "hearing screaming." Stated that she would also have 
difficulty remembering things and was finding her school work 
more difficult, "I felt like I had a learning disability." 
Stated that after some time, she sought help and had been seeing 
Dr. ___ she felt enormously helpful. However, 
notes she
had to stop seeing him recently after she aged out of her 
parent's insurance plan. 
. 
Patient states that recently she had been having difficulty in 
the setting of academic stressors, the upcoming anniversary of 
the ___ Bombings and the loss of her therapist. Notes her 
eyes have been more "fatigued" when she is in a room with bright 
lights, and reported insomnia due to construction in her
apartment building, which frequently wakes her up. Notes she is 
sleeping about 4 hours per night. Reports poor motivation at 
school but denies depression, "it's not the same-- I'm still 
interested and engaged, I'm happy and grateful." Stated she is 
worried because she has been late for classes and not been 
handing in assignments on time and is not worried about the 
consequences. 
. 
In the setting of poor sleep, pateitn reported experiencing 
passive suicidal ideation; stated she had thoughts such as, 
"what is the point of existing?" However, stated, "I don't want 
to die... there are a whole list of people I would never want to 
hurt." On the day prior to presentation, Ms. ___ reported
thinking, "if I leave the gas on maybe I could fall asleep and 
not wake up." Stated she left the gas on and woke up the next 
day and "nothing happened." She called the counseling center 
because she felt "I wasn't motivated and needed to do something" 
and she was sent to ___ ED. 
. 
On psychiatric review of systems, patient denied depressed mood, 
anhedonia as noted above. Reported weight has been "up and down" 
and reported a life long struggle with her weight. Denied 
suicidal ideation or thoughts of self harm at this time. Denied 
history of manic symptoms including decreased need for sleep,
worsening impulsivity, grandiosity, hypersexuality. Denied AVH, 
paranoia. Denied significant drug or alcohol use. Denied history 
of eating disordered behaviors including restriction, 
binging/purging. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: PTSD 
- SA/SIB: see HPI, denies prior history of suicide attempts or
self injurious behaviors
- Hospitalizations: denies
- Medication Trials: denies
- Therapist: none, had been seeing Dr. ___ several
months ago 
- Psychiatrist: none 

Past medical history:
Obesity

 
Social History:
Substance use history:
- Alcohol: Patient denies history of abuse, but drinks ___ 
drinks on occasion to help with sleep. Denies history of 
withdrawal symptoms, seizures
- Illicits: denies
- Tobacco: denies 
. 
Personal and Social History: Patient reports she was born and 
raised in ___ in a suburb of ___ to a middle 
class family. States her ___ was "originally a truck stop 
and then a bunch of wealthy people moved in and now it's a 
suburb." Stated her family financially "scraped by," noting her 
father worked as an ___ at ___ and her mother was a stay 
at home mother who later became employed as a ___ at a 
___. She is the middle of 3 children and 
has an older sister age ___ who apparently suffered from anorexia 
but now has two children and is doing well. Has a younger 
brother who is age ___ and is doing "great." Patient graduated 
high school, and then spent ___ years studying at ___ 
___ and the next ___ years preparing herself to apply to 
___. States she enjoys the program but notes it is intense. 
Reports she has few friends in the area as most have graduated 
and left ___. Currently she works for ___ and lives 
with two roommates, who are rarely in the apartment. Never 
married, no children. Denies history of physical or sexual 
abuse. Denies access to firearms, legal issues. 

 
Family History:
- Diagnoses: sister with history of anorexia nervosa with 
history of hospitalization. Paternal grandmother with "eating 
and body image issues." 
- Suicides: patient denies
- Addictions: maternal family history of alcohol use disorder 
 
Physical Exam:
ADMISSION EXAM
*VS:  BP: 121/75  HR:  89  temp: 97.5 resp: 18 O2 sat: 97%  
  Neurological:
    *station and gait: WNL 
    *tone and strength: moves all four extremities spontaneously 

    cranial nerves:
PERRL
EOMI
CN 7 motor function intact and intact to sensation
Shoulder Shrug NL
Hearing intact bilaterally
Motor Function: 
RUE ___, LUE ___, RLE ___, LLE ___, plantar flexion ___
bilaterally, dorsiflexion ___ bilaterally
Patellar Reflexes ___ bilaterally
Brachial Reflex ___ bilaterally
    abnormal movements: none noted 
    frontal release: not assessed 
  *Appearance: young, slightly overweight woman with 
brown/blonde
hair, appropriately dressed in hospital gown, hair pulled back 
in
ponytail
  Behavior: calm, cooperative, pleasant
  *Mood and Affect: "Not wanting to continue"/ incongruent,
pleasant affect, somewhat flat at times but unsure of baseline 
*Thought process: linear, goal-directed, no LOA 
*Thought Content: No AH/VH, No current SI/HI
  *Judgment and Insight: limited/fair
  Cognition: 
    *Attention: attentive to interviewer 
 *orientation: ___, ___, Date, Month, year, president 
    *Memory: ___ registration, ___ recall 
   *Fund of knowledge: can recall four most recent presidents 
    Calculations: $1.75 = 7 quarters
    Abstraction: parrot/parakeet = "both birds"
   Visuospatial: not assessed 
    *Speech: normal rate, rhythm, tone, prosody, volume
    *Language: fluent ___, no paraphasic errors 

DISCHARGE EXAM
Exam:
  *VS:  T97.4 PO BP107/74 HR84 RR17 O2Sat 98% on RA 
  Neurological:
    *station and gait: normal station and steady gait with 
normal arm swing
    *tone and strength: moves all extremities freely against 
gravity
    cranial nerves: grossly intact
    abnormal movements: none observed
  *Appearance: Overweight Caucasian female who appears her 
stated age, dressed in causal clothing with long hair tucked 
into sweatshirt
  Behavior: Cooperative with interview, good eye contact, 
frequent fidgets and hand gestures, takes notes in journal
  *Mood and Affect: "better" / congruent, bright, normal range
  *Thought process: Linear, goal-directed, future oriented, no 
LOA/FOI
  *Thought Content: denies SI/HI, no delusions elicited
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: attends to 
interview without difficulty, alert and oriented
    *Memory: intact to recent and remote events
    *Fund of knowledge: grossly average
    *Speech: regular rate, rhythm, volume, prosody
    *Language: fluent ___ speaker without errors

 
Pertinent Results:
___ 04:08PM URINE  HOURS-RANDOM
___ 04:08PM URINE  UCG-NEGATIVE
___ 04:08PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:08PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:08PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:08PM URINE  RBC-7* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 04:08PM URINE  CA OXAL-RARE
___ 04:08PM URINE  MUCOUS-RARE
___ 03:05PM   GLUCOSE-96 UREA N-21* CREAT-0.7 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-14
___ 03:05PM   estGFR-Using this
___ 03:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:05PM   WBC-9.6 RBC-4.46 HGB-13.2 HCT-38.4 MCV-86 
MCH-29.6 MCHC-34.4 RDW-12.7 RDWSD-39.2
___ 03:05PM   NEUTS-68.8 ___ MONOS-5.9 EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-6.60* AbsLymp-2.27 AbsMono-0.57 
AbsEos-0.09 AbsBaso-0.04
___ 03:05PM   PLT COUNT-278
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
On admission, patient reported recent history of worsening 
symptoms of PTSD, most notably significant sleep disturbance in 
the setting of triggering stimuli related to construction in her 
building, as well as anxiety, fatigue, and low motivation, 
leading to a suicide attempt by leaving the gas on overnight. 
She was started on hydroxyzine 12.5mg and prazosin which was 
started at 1mg and increased to 2mg at the time of discharge. 
This led to significant improvement in her sleep, with the 
patient reporting that she was able to sleep uninterrupted 
through the night. Her other symptoms also improved, and her 
mood brightened significantly. She was no longer complaining of 
fatigue or experiencing suicidal ideation at the time of 
discharge. 

3. MEDICAL
Patient reported a history of pre-diabetes, but did not have any 
active medical issues requiring intervention during this 
hospital stay.

4. PSYCHOSOCIAL
1) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  ***What was the patient like in 
the milieu.

2) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Collateral was obtained from the ___ and 
the patient's family, and care was coordinated with ___ and 
her outpatient PCP

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal ideation with recent suicide attempt.  Their static 
factors noted at that time include history of PTSD, Caucasian 
race, and marital status. The modifiable risk factors included 
suicidal ideation with attempt, no established outpatient 
treatment, limited social supports, and insomnia. These were 
addressed with care coordination and outpatient referrals and 
the addition of medications leading to significant improvement 
in her sleep disturbance and resolution of her suicidal 
ideation. Finally, the patient is being discharged with many 
protective risk factors, including help-seeking nature, a 
future-oriented viewpoint, lack of suicidal ideation, and a lack 
of history of significant substance use or abuse.  Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others.

Our Prognosis of this patient is optimistic but dependent on her 
continued adherence to her medication regimen and engagement 
with outpatient medical and therapy appointments.

 
Medications on Admission:
None
 
Discharge Medications:
1.  HydrOXYzine 12.5 mg PO Q6H:PRN anxiety/insomnia 
RX *hydroxyzine HCl 25 mg ___ tablet by mouth e Disp #*15 
Tablet Refills:*0 
2.  Prazosin 1 mg PO QHS 
RX *prazosin 2 mg 1 capsule(s) by mouth nightly at bedtime Disp 
#*15 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder 
PTSD by history

 
Discharge Condition:
VS: T 97.4 PO BP 107/74 HR 84 RR 17 98 
Mental Status: Alert, oriented, and interactive. Clear and 
coherent. 
Ambulatory Status: Ambulatory and independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___